US08669271B2
4-[5-(2-Fluoro-4-methanesulfonyl-phenyl)-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-[5-chloro-2-(2-fluoro-4-methanesulfonyl-phenyl)-pyridin-4-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester (208 mg), potassium hydroxide (70 mg), Pd2(dibenzylidenactone)3*CHCl3 complex (10 mg), and 2-di-tert-butylphosphino-2,4,6-triisopropylbiphenyl (14 mg) in a mixture of 1,4-dioxane (4 mL) and water (2 mL) is heated under an argon atmosphere in an oil bath at 110° C. for 1 h. The reaction mixture is mixed with water and extracted with ethyl acetate. The combined extracts are washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 1:1) to give the title compound. LC (method 7): tR=1.41 min; Mass spectrum (ESI+): m/z=475 [M+H]+.

reactant | 4-[5-chloro-2-(2-fluoro-4-methanesulfonyl-phenyl)-pyridin-4-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester | 208 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=CC(=NC=C1Cl)C1=C(C=C(C=C1)S(=O)(=O)C)F | C24H26ClFN2O4S
reactant | potassium hydroxide | 70 mg | [OH-].[K+]
reactant | 2-di-tert-butylphosphino-2,4,6-triisopropylbiphenyl | 14 mg | C(C)(C)(C)P(C1(C(=C(C=C(C1)C(C)C)C(C)C)C1=CC=CC=C1)C(C)C)C(C)(C)C | C29H47P
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 4-[5-(2-Fluoro-4-methanesulfonyl-phenyl)-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=2C(=CN=C(C2)C2=C(C=C(C=C2)S(=O)(=O)C)F)O1 | C24H27FN2O5S
